US07288659B2
(3,5-difluorophenyl)fluoroacetic acid
15 ml of a sodium hydroxide solution (1N) are added to 1.9 g of methyl (3,5-difluorophenyl)-fluoroacetate, obtained in step 2.2, in 60 ml of methanol and the mixture is stirred for 18 hours at room temperature. The medium is concentrated under vacuum, the residue is taken up in ethyl acetate and washed with an aqueous hydrochloric acid solution (0.5 M). The organic phase is dried over anhydrous sodium sulfate and concentrated to give 1.6 g of an orange-colored oil.

reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
reactant | methyl (3,5-difluorophenyl)-fluoroacetate | 1.9 g | FC=1C=C(C=C(C1)F)C(C(=O)OC)F | C9H7F3O2
solvent | methanol | 60 ml | CO | CH4O
product | (3,5-difluorophenyl)fluoroacetic acid | 1.6 g | FC=1C=C(C=C(C1)F)C(C(=O)O)F | C8H5F3O2
